US06599902B2
Synthesis of 5-(2,6-Dichloro-phenylmethanesulfonyl)-3-[1-(4-{2-[(S)-2-((R)-3-hydroxy-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-2-oxo-ethyl}-3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one
A mixture of {5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-acetic acid (156 mg, 0.3 mmol), HOBt (80 mg) and EDAC (110 mg) in DMF (4 mL) was added TEA (3 drops). After stirring at rt for 2 hours, to the mixture was added (R)-1-(S)-1-pyrrolidin-2-ylmethyl-pyrrolidin-3-ol (300 mg). After stirring at rt for overnight, the reaction was concentrated and dissolved in ethyl acetate. It was then washed with water and sodium bicarbonate, dried and concentrated. The residue was purified on a silica gel column to give 210 mg of the titled compound. MS m/z 671 [M++1].

reactant | {5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-acetic acid | 0.3 mmol, 156 mg | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)CC(=O)O)C | C24H20Cl2N2O5S
reactant | HOBt | 80 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDAC | 110 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 5-(2,6-Dichloro-phenylmethanesulfonyl)-3-[1-(4-{2-[(S)-2-((R)-3-hydroxy-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-2-oxo-ethyl}-3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one | 210 mg | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C=1NC(=C(C1C)CC(=O)N1[C@@H](CCC1)CN1C[C@@H](CC1)O)C | C33H36Cl2N4O5S
